US04215057
Preparation of 2-methyl-3-acetylfuran.
To 100.12 g acetylacetone, 44 g dolomite powder and 4 ml pyridine (5 mol%) are added as described in example 1, whereafter 174.4 g 45% aqueous chloracetaldehyde solution is added, with stirring. Stirring is continued at 70° C. for 4.5 hours, and then another hour at 75° C. The CO2 -volume generated is 10.8 liter at room temperature. Workup occurs as in example 1. A fraction is collected at temperatures from 59°-61° C. at 11 torr; it amounts to 93.56 corresponding to 75.5% of the theoretical.

reactant | acetylacetone | 100.12 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | chloracetaldehyde | 174.4 g | ClCC=O | C2H3ClO
reactant | CO2 | C(=O)=O | CO2
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 2-methyl-3-acetylfuran | CC=1OC=CC1C(C)=O | C7H8O2
